US04482718
Stage a: N-(o-Chlorobenzylidene)-aminomethyl-diphenylphosphine oxide
2.18 g. (0.015 mol) o-chlorobenzaldehyde is added dropwise to a solution of 3.5 g. (0.015 mol) aminomethyldiphenylphosphine in 150 ml. ethanol at ambient temperature. After evaporation of the solvent by heating to 50° C. under a slight vacuum, a clear yellow oil is obtained which is taken up hot in 50 ml. of a mixture of diisopropyl ether and ethanol (25/1 v/v). After cooling to 10° C., filtering and drying at 40° C. in vacuo, there are obtained 4.9 g. of crystals of the desired product; m.p. 89° C.

reactant | o-chlorobenzaldehyde | 0.015 mol | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | aminomethyldiphenylphosphine | 0.015 mol | NCP(C1=CC=CC=C1)C1=CC=CC=C1 | C13H14NP
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | ethanol | C(C)O | C2H6O
product | N-(o-Chlorobenzylidene)-aminomethyl-diphenylphosphine oxide | ClC1=C(C=NCP(C2=CC=CC=C2)(C2=CC=CC=C2)=O)C=CC=C1 | C20H17ClNOP
